US04737513
826 mg of 3-nitro-1H-pyrrole-4-carboxaldehyde [prepared by the process in Bull. Soc. Chim. p. 283-29 (1972)] were poured into 40 ml of tetrahydrofuran and then, at +5° C., 280 mg of sodium hydride as 50% in oil were added. After leaving the temperature at 20° C. for one hour, 1.19 g of propargyl bromide were added. The mixture was stirred for 18 hours at 20° C. and then was filtered and concentrated. The residue was chromatographed over silica and eluted with a mixture of hexane and ethyl acetate (1-1) to obtain 800 mg of 3-nitro-1-(2-propynyl) 1H-pyrrol-4-carboxaldehyde melting at 120° C.

reactant | 3-nitro-1H-pyrrole-4-carboxaldehyde | 826 mg | [N+](=O)([O-])C1=CNC=C1C=O | C5H4N2O3
reactant | sodium hydride | 280 mg | [H-].[Na+]
reactant | propargyl bromide | 1.19 g | C(C#C)Br | C3H3Br
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | 3-nitro-1-(2-propynyl) 1H-pyrrol-4-carboxaldehyde | 800 mg | [N+](=O)([O-])C1=CN(C=C1C=O)CC#C | C8H6N2O3
